US07273940B2
1-(2-Methylphenyl)pentane-1,4-dione (5)
25 g (208 mmol) of o-tolualdehyde, 14.58 g (208 mmol) of methyl vinyl ketone, 21.05 g (208 mmol) of triethylamine, 5.4 g (21.4 mmol) of 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide were dissolved in this order in 100 ml of DMF and stirred at 80° C. for 12 hours. The reaction mixture was subsequently admixed with 400 ml of water and extracted twice with methylene chloride. The combined methylene chloride phases were washed with 10% strength sulfuric acid and saturated sodium hydrogencarbonate solution and dried over sodium sulfate. After taking off the solvent on a rotary evaporator, the product was purified by fractional distillation.

reactant | o-tolualdehyde | 208 mmol, 25 g | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | methyl vinyl ketone | 208 mmol, 14.58 g | C(=C)C(=O)C | C4H6O
reactant | triethylamine | 208 mmol, 21.05 g | C(C)N(CC)CC | C6H15N
reactant | water | 400 ml | O | H2O
catalyst | 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide | 21.4 mmol, 5.4 g | [Br-].C(C)[N+]1=CSC(=C1C)CCO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(2-Methylphenyl)pentane-1,4-dione | CC1=C(C=CC=C1)C(CCC(C)=O)=O | C12H14O2
